US03967949
For the preparation of a ketone such as isopropyl 2,2,4,4-tetrafluoro-1,3-benzodioxan-6-yl ketone, the procedure disclosed in U.S. Pat. No. 3,632,820 (Jan. 4, 1972), Example 6, is used to prepare the intermediate halobenzodioxane. According to that reference, fluoroformic acid 2-trichloromethyl-4-chlorophenyl ester is allowed to react with anhydrous hydrofluoric acid to yield 2,2,4,4-tetrafluoro-6-chloro-1,3-benzodioxane. This compound can then be utilized to prepare the isopropyl 2,2,4,4-tetrafluoro-1,3-benzodioxan-6-yl or related alkyl or aryl ketones by any of the methods set forth above for the other ketones.

reactant | isopropyl 2,2,4,4-tetrafluoro-1,3-benzodioxan-6-yl ketone | FC1(OC(C2=C(O1)C=CC(=C2)C(=O)C(C)C)(F)F)F | C12H10F4O3
reactant | fluoroformic acid 2-trichloromethyl-4-chlorophenyl ester | ClC(C1=C(C=CC(=C1)Cl)OC(=O)F)(Cl)Cl | C8H3Cl4FO2
reactant | hydrofluoric acid | F | FH
product | 2,2,4,4-tetrafluoro-6-chloro-1,3-benzodioxane | FC1(OC(C2=C(O1)C=CC(=C2)Cl)(F)F)F | C8H3ClF4O2
